US04124369
152 g (0.5 mol) of 1-chloro-1-(2,6-dichlorobenzamido)-3,3-dimethyl-butan-2-one in 300 ml of tetrahydrofuran were added dropwise in the course of one hour at 10° C., to a suspension of 70 g (1.1 mol) of imidazole and 70 ml (0.5 mol) of triethylamine in 300 ml of tetrahydrofuran. The mixture was stirred for 15 hours at room temperature and filtered, and the residue was rinsed with ethyl acetate. The filtrate was concentrated in a waterpump vacuum and the residue was taken up in 500 ml of methylene chloride and washed three times with 200 ml water at a time. After drying over sodium sulphate, the solvent was distilled off in a waterpump vacuum. The oil which remained was dissolved in 500 ml of acetone and 90 g (0.3 mol) of 1,5-naphthalenedisulphonic acid in acetone were added. The crystals which precipitated were filtered off and washed with acetone/water (10:1). 14.9 g (21.8% of theory) of 1-(2,6-dichlorobenzamido)-3,3-dimethylbutan-1-(imidazol-1-yl)-butan-2-one-naphthalene-1,5-disulphonate of melting point 220°-230° C. (decomposition) were obtained.

reactant | 1-chloro-1-(2,6-dichlorobenzamido)-3,3-dimethyl-butan-2-one | 0.5 mol, 152 g | ClC(C(C(C)(C)C)=O)NC(C1=C(C=CC=C1Cl)Cl)=O | C13H14Cl3NO2
reactant | imidazole | 1.1 mol, 70 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 0.5 mol, 70 ml | C(C)N(CC)CC | C6H15N
reactant | 1,5-naphthalenedisulphonic acid | 0.3 mol, 90 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2,6-dichlorobenzamido)-3,3-dimethylbutan 1-(imidazol-1-yl)-butan-2-one naphthalene-1,5-disulphonate | 14.9 g, 21.8% | ClC1=C(C(=O)NCCC(C)(C)C)C(=CC=C1)Cl.N1(C=NC=C1)CC(CC)=O.C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C13H17Cl2NO.C10H8O6S2.C7H10N2O/c1-13(2,3)7-8-16-12(17)11-9(14)5-4-6-10(11)15;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16;1-2-7(10)5-9-4-3-8-6-9/h4-6H,7-8H2,1-3H3,(H,16,17);1-6H,(H,11,12,13)(H,14,15,16);3-4,6H,2,5H2,1H3/p-2
